US06133266
Benzyl 2-(2-benzyloxyethyl)phenyl ether (159 mg) and 123 mg of sodium acetate was suspended in 2 ml of acetic acid, 29 μl of bromine was added to the suspension with stirring at room temperature, and the mixture was subjected to 1 hour of reaction. Then, a solution of 100 mg of sodium sulfite heptahydrate in 20 ml of water was added, and the mixture was extracted with ethyl acetate. The extract was washed with water, an aqueous saturated sodium bicarbonate solution and water in that order and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified by silica gel medium pressure liquid column chromatography (eluent: hexane/methylene chloride=2/1) to give 173 mg of benzyl 2-(2-benzyloxyethyl)-4-bromophenyl ether in an oily form.

reactant | Benzyl 2-(2-benzyloxyethyl)phenyl ether | 159 mg | C(C1=CC=CC=C1)OCCC1=C(C=CC=C1)OCC1=CC=CC=C1 | C22H22O2
reactant | sodium acetate | 123 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 29 μl | BrBr | Br2
reactant | sodium sulfite heptahydrate | 100 mg | O.O.O.O.O.O.O.S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | benzyl 2-(2-benzyloxyethyl)-4-bromophenyl ether | 173 mg | C(C1=CC=CC=C1)OCCC1=C(C=CC(=C1)Br)OCC1=CC=CC=C1 | C22H21BrO2
